US07666866B2
B. Methyl 2-[4-(tert-butoxycarbonylamino)butoxy]-4-methoxybenzoate
A suspension of methyl 4-methoxy-2-(4-pthalimidobutoxy)benzoic acid (9.35 g, 24.4 mmol) and hydrazine (73.2 ml, 1.0 M in MeOH) was stirred at room temperature under N2 for 18 h. The thick slurry was diluted with MeOH (50 ml) and stirring continued for 8 h. The reaction mixture was diluted with dichloromethane (400 ml), chilled to 0° C., and filtered. The filtrate was concentrated in vacuo to give a white solid. The product was taken up again in dichloromethane and filtered. The filtrate was concentrated in vacuo to give 4.88 g of a viscous, yellow oil. The crude amine (4.88 g, 19.9 mmol) was dissolved in dioxane (35 ml). Sodium carbonate (2.10 g, 19.9 mmol) and water (40 ml) were added; and after a solution developed, di-tert-butyl dicarbonate (4.77 g, 21.9 mmol) and dioxane (15 ml) were added. The reaction mixture was stirred for 18 h at room temperature in a capped flask. The solvent volume was reduced to approximately one-half and the pH adjusted to 3 with 1 N NaHSO4. EtOAc was added, and the reaction transferred to a separatory funnel. The layers were separated and the organic layer washed with brine, dried, and the solvent removed in vacuo to give a viscous yellow oil. Chromatography (silica, 4:1 to 2:1 hexane:EtOAc) yielded 5.66 g (67.2%) of a brittle, white solid.

reactant | methyl 4-methoxy-2-(4-pthalimidobutoxy)benzoic acid | 24.4 mmol, 9.35 g | CC=1C(=C(C(=O)O)C=CC1OC)OCCCCN1C(C=2C(C1=O)=CC=CC2)=O | C21H21NO6
reactant | hydrazine | 1.0 M, 73.2 ml | NN | H4N2
reactant | Sodium carbonate | 19.9 mmol, 2.10 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | di-tert-butyl dicarbonate | 21.9 mmol, 4.77 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | NaHSO4 | 1 N | OS(=O)(=O)[O-].[Na+]
solvent | MeOH | 50 ml | CO | CH4O
solvent | dichloromethane | 400 ml | ClCCl | CH2Cl2
solvent | dioxane | 35 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 15 ml | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | hexane | CCCCCC | C6H14
solvent | water | 40 ml | O | H2O
product | Methyl 2-[4-(tert-butoxycarbonylamino)butoxy]-4-methoxybenzoate | C(C)(C)(C)OC(=O)NCCCCOC1=C(C(=O)OC)C=CC(=C1)OC | C18H27NO6
